US08877780B2
A mixture of 4-(3-chloro-benzylamino)-phthalic acid dimethyl ester (1.10 g, 3.30 mmol) and 3N sodium hydroxide (50 mL) in ethanol (100 mL) was refluxed for one hour. The reaction mixture was cooled to room temperature, and the solvent was removed under vacuum. The residue was dissolved in water (100 mL), washed with CH2Cl2 (2×100 mL), and acidified (HCl). The resulting mixture was extracted with ethyl acetate (2×100 mL), and the organic phase was washed with water (2×100 mL), dried (MgSO4), and evaporated, providing 1.00 g of 4-(3-chloro-benzylamino)-phthalic acid, in 99% yield; 1H NMR (DMSO-d6) δ 4.37 (d, J=5.7 Hz, 2H), 6.59-6.62 (m, 2H), 7.18 (t, J=6.0 Hz, 1H), 7.28-7.39 (m, 4H), 7.56-7.61 (m, 1H), 12.51 (br, 2H).

reactant | 4-(3-chloro-benzylamino)-phthalic acid dimethyl ester | 3.30 mmol, 1.10 g | COC(C=1C(C(=O)OC)=CC(=CC1)NCC1=CC(=CC=C1)Cl)=O | C17H16ClNO4
reactant | sodium hydroxide | 3N, 50 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-(3-chloro-benzylamino)-phthalic acid | 1.00 g, 99% yield | ClC=1C=C(CNC=2C=C(C(C(=O)O)=CC2)C(=O)O)C=CC1 | C15H12ClNO4
